US07943669B2
Step B: {4-[3-(4-Fluoro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{4-[3-(4-Fluoro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (200 mg; 0.36 mmol) was dissolved in ethanol (20 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 1 h, acidified with 1 N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness. Yield: 170 mg. HPLC-MS: m/z: 522.1 (M+); Rt: 1.77 min.

reactant | {4-[3-(4-Fluoro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.36 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC1=CC=C(C=C1)F)C)=O | C31H32FNO5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | {4-[3-(4-Fluoro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid | FC1=CC=C(COC=2C=C(C=C(C2)C#CCN2CCOCC2)SC2=CC(=C(OCC(=O)O)C=C2)C)C=C1 | C29H28FNO5S
